US07294616B2
3-bromo-2-chlorothiophene (1.00 mL), 3-aminophenylboronic acid (2.2266 g) and palladium tetrakistriphenylphosphine (544.8 mg) were combined in a mixture of 40 mL of dimethoxyethane and 15 mL of 2.0 M aqueous potassium carbonate under an atmosphere of dry N2. The reaction mixture was heated at 90° C. overnight. The reaction mixture was then cooled to room temperature and partitioned between EtOAc and water. The EtOAc layer was then dried over MgSO4, filtered and concentrated under vacuum. The resulting residue was purified using silica gel chromatography eluting with a 1:1 solution of DCM/Hexanes, followed by a 4:3 solution of DCM/Hexanes and finally a 2:1 solution of DCM/Hexanes, to give 1.80 g of 3-(2-chlorothiophen-3-yl)benzenamine.

reactant | 3-bromo-2-chlorothiophene | 1.00 mL | BrC1=C(SC=C1)Cl | C4H2BrClS
reactant | 3-aminophenylboronic acid | 2.2266 g | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
solvent | dimethoxyethane | 40 mL | C(OC)COC | C4H10O2
solvent | potassium carbonate | 2.0 M, 15 mL | C([O-])([O-])=O.[K+].[K+]
product | 3-(2-chlorothiophen-3-yl)benzenamine | 1.80 g | ClC=1SC=CC1C=1C=C(C=CC1)N | C10H8ClNS
